US09120749B2
{4-[trans-4-Aminocyclohexylamino]-6-(pyridin-4-yl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(pyridin-4-yl)quinolin-4-ylamino]cyclohexylcarbamate (50 mg, 0.100 mmol) was reacted with TFA (2 mL) to afford the desired product (14.9 mg, 39%) as a yellow solid: NMR (500 MHz, CD3OD) δ 9.26 (s, 1H), 8.70 (dd, J=4.6, 1.6 Hz, 2H), 8.65 (s, 1H), 8.30 (dd, J=8.7, 1.7 Hz, 1H), 8.05 (d, J=8.7 Hz, 1H), 7.87 (dd, J=4.6, 1.7 Hz, 2H), 4.31 (br s, 1H), 3.28-3.22 (m, 1H), 2.91-2.82 (m, 1H), 2.41 (d, J=13.2 Hz, 2H), 2.20 (d, J=11.3 Hz, 2H), 1.82-1.69 (m, 2H), 1.67-1.55 (m, 2H), 1.28-1.23 (m, 2H), 1.20-1.16 (m, 2H); ESI MS m/z 387 [C24H26N4O+H]+; HPLC 95.0% (AUC), tR=8.34 min.

reactant | tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(pyridin-4-yl)quinolin-4-ylamino]cyclohexylcarbamate | 0.100 mmol, 50 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC=NC=C1 | C29H34N4O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[trans-4-Aminocyclohexylamino]-6-(pyridin-4-yl)quinolin-3-yl}(cyclopropyl)methanone | 14.9 mg, 39% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC=NC=C1)C(=O)C1CC1 | C24H26N4O
